US05344843
A mixture of 4-[[2-(2-naphthalenyloxy)acetyl]amino]-alpha-oxobenzeneacetic acid (3.0 g) in dichloromethane (50 mL) and triethylamine (2.1 g ) was stirred at 0° C. and treated with methyl chloroformate (1.16 mL). The mixture was stirred for one hour and diluted with water, extracted with dichloromethane, dried (Na2SO4), filtered and evaporated. The residue was crystallized from dichloromethane-hexane to give 2.2 g of 4-[[2-(2-naphthalenyloxy) acetyl]amino]-alpha-oxobenzeneacetic acid methyl ester, mp 175°-176° C.

reactant | 4-[[2-(2-naphthalenyloxy)acetyl]amino]-alpha-oxobenzeneacetic acid | 3.0 g | C1=C(C=CC2=CC=CC=C12)OCC(=O)NC1=CC=C(C=C1)C(C(=O)O)=O | C20H15NO5
reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 1.16 mL | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-[[2-(2-naphthalenyloxy) acetyl]amino]-alpha-oxobenzeneacetic acid methyl ester | 2.2 g | COC(C(C1=CC=C(C=C1)NC(COC1=CC2=CC=CC=C2C=C1)=O)=O)=O | C21H17NO5
